US05045558
4-[1-(1-Imidazolyl)-butyl]-benzoic acid tert-butyl ester
1 g of 4-[1-(1-imidazolyl)-butyl]-benzoic acid with 3.4 g of N,N-dimethylformamide-di-tert-butylacetal in 6 ml of toluene is warmed to 100° C. for 1 hour. It is then dispersed in ether/1M hydrochloric acid, the water phase is alkalized with potassium carbonate and extracted with ethyl acetate; after concentrated by evaporation of the solvent, it is distilled on a bulb tube. 0.58 g of the title compound is obtained, boiling point 200° C./0.03 mbar.

reactant | 4-[1-(1-imidazolyl)-butyl]-benzoic acid | 1 g | N1(C=NC=C1)C(CCC)C1=CC=C(C(=O)O)C=C1 | C14H16N2O2
reactant | N,N-dimethylformamide-di-tert-butylacetal | 3.4 g | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
reactant | water | O | H2O
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | toluene | 6 ml | C1(=CC=CC=C1)C | C7H8
solvent | ether | 1M | CCOCC | C4H10O
product | 4-[1-(1-Imidazolyl)-butyl]-benzoic acid tert-butyl ester | 0.58 g | C(C)(C)(C)OC(C1=CC=C(C=C1)C(CCC)N1C=NC=C1)=O | C18H24N2O2
